US09353086B2
1-(1,3-Thiazol-2-yl)-1,4-diazepane
2-Bromothiazole (1.00 g, 6.10 mmol) and homopiperazine (2.44 g, 24.4 mmol) were dissolved in DMA (1 mL) and heated using a microwave (180° C., absorption high) for 30 min. The reaction mixture was dissolved in DCM (50 mL), washed with sat aq Na2CO3 (50 mL), brine (50 mL), dried (MgSO4) and concentrated in vacuo to give the crude title compound (1.05 g, 94%) as a yellow solid. LCMS (ES+): 184.2 [MH]+.

reactant | 2-Bromothiazole | 6.10 mmol, 1.00 g | BrC=1SC=CN1 | C3H2BrNS
reactant | homopiperazine | 24.4 mmol, 2.44 g | N1CCNCCC1 | C5H12N2
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
product | 1-(1,3-Thiazol-2-yl)-1,4-diazepane | 1.05 g, 94% | S1C(=NC=C1)N1CCNCCC1 | C8H13N3S
